2139-01-21 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - An A-line and subclavian central line were placed.
   - Her SBPs remained low even after her CVP was measured at 12, so
   levophed was started.  Lactate was 0.3.
   This am she admits to pain all over, denies dizziness or SOB,.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Celecoxib
   Unknown;
   Singulair (Oral) (Montelukast Sodium)
   Unknown;
   Accolate (Oral) (Zafirlukast)
   Unknown;
   Prilosec (Oral) (Omeprazole)
   Unknown;
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-21**] 03:00 AM
   Meropenem - [**2139-1-21**] 05:42 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2139-1-21**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-21**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 92 (59 - 104) bpm
   BP: 94/59(74) {62/36(-2) - 99/59(75)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 16 (12 - 16)mmHg
   Total In:
                                                                  1,500 mL
                                                                  1,093 mL
   PO:
   TF:
   IVF:
                                                                  1,500 mL
                                                                  1,093 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    245 mL
   Urine:
                                                                     50 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,100 mL
                                                                    848 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on 4 L NC
   ABG: 7.40/24/188/23/-7
   Physical Examination
   General Appearance: Elderly female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic, OP clear
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: A few coarse upper airway sound anteriorly
   Abdominal: + BS, soft, ND, tender to palpation throughout, dressing
   c/d/I in the RUQ
   Extremities: Right: 2+, Left: 2+ DP
   Skin:  Warm
   Neurologic: Alert
   Labs / Radiology
   82 K/uL
   8.1 g/dL
   113 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   136 mEq/L
   24.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2139-1-21**]  01:06 AM
                             [**2139-1-21**]  03:10 AM
                             [**2139-1-21**]  06:05 AM
   WBC
   5.8
   Hct
   24.1
   Plt
   82
   Cr
   0.5
   0.5
   TCO2
   15
   Glucose
   97
   113
   Other labs: PT / PTT / INR:17.4/31.6/1.6, ALT / AST:22/40, Alk Phos / T
   Bili:176/3.2, Differential-Neuts:82.9 %, Lymph:11.7 %, Mono:4.5 %,
   Eos:0.5 %, Lactic Acid:0.3 mmol/L, Albumin:1.9 g/dL, LDH:161 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   [1][**2139-1-21**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2139-1-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2139-1-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2139-1-21**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   Assessment and Plan
   61F s/p gastric bypass and more recently, lap CCY, with
   choledocholithiasis, ESBL E coli UTI, and also ? pna, transferred from
   OSH for ERCP s/p stone removal complicated by sepsis.
   # Hypotension: The patient became hypotensive overnight after the ERCP
   likely secondary to bacteremia after instrumentation.  She received IVF
   and her CVP was resuscitated to 12, however she remained hypotensive
   with SBPs in the 80
s so she was started on levophed.  Lactate 0.3.
   - Continue broad spectrum antibiotics with meropenem, flagyl, and
   vancomycin as below
   - F/u BCx, UCx
   - Continue to monitor her BPs via her A-line and continue levophed
   titrating to MAP > 65.
   - Follow her CVP and given IV boluses to maintain it at 10-12.  Goal
   UOP of > 30cc/hr.
   # choledocholithiasis/cholangitis: pt's elevated Tbili, slightly
   elevated alk phos, and vague abd complaints at OSH c/w
   choledocholithiasis, for which pt underwent ERCP yesterday.
   - Manage hypotension as above
   - meropenem, given known UTI with ESBL E coli, flagyl for GI anaerobes,
   and vanc for gram positive coverage
   # Hypoxia: The patient has been requiring 4 L NC. Her ABG was
   7.4/22/188.  CXR showed ***
   - Wean oxygen as tolerated.
   # ESBL E coli UTI: second possible source of infection, although time
   course more consistent with #1, above, as source of sepsis. repeat UA
   showed on 1 WBC, neg leuk, neg nitrite
   - F/u  UCx
   - Continue meropenem as above.
   # Chronic pain: pt on numerous pain meds at home--fentanyl transdermal,
   oxycodone, ultram, as well as lidoderm and methocarbamol.
   - Will continue fentanyl and lidocaine patches
   # pancytopenia: based on records from [**Location (un) 1242**], this has been long
   standing, with WBC [**2-5**], Hct high 20s, and plts ~100, unresponsive to
   IVIG in the past, and has also received B12 supplementation as she is
   s/p gastric bypass, without apparent effect. Hct stable this am at 26,
   WBC increased to 7.1 and plt increased to 104.
   - ollow counts; continue folate
   # hypothyroidism: continue levothyroxine 200mcg daily
   # FEN: clears for now, replete lytes prn
   # Access: 22 PIV in L arm, Aline, and left subclavian central line
   # PPx: pneumoboots--no heparin [**2-2**] low plts at OSH; home ppi; bowel
   regimen prn
   .
   # Code: DNR/DNI was reversed for ERCP, so full for now; discussed with
   daugther, who is very reluctant to allow pt to be intubated, but agreed
   that pressors, invasive monitor for sepsis, etc, short of
   cardiorespiratory arrest, was appropriate; if pt worsens and intubation
   seems imminent, would ideally re-discuss with daughter
   # Dispo: ICU
   # Comm: with daughter and proxy, [**Name (NI) **] [**Name (NI) 3531**] [**Telephone/Fax (1) 3532**] (h) or
   [**Telephone/Fax (1) 3533**] (c); will come to see pt after she gets off work ~2pm
   tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-1-20**] 11:30 PM
   Arterial Line - [**2139-1-21**] 01:00 AM
   Multi Lumen - [**2139-1-21**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2139-01-22 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - per daughter, patient has PMH of asthma and is on inhalers at home so
   started ipratroprium/albuterol prn
   - discussed code status with daughter - patient is DNR/DNI but
   intubation ok if good prognosis or for procedure.  Does not want to be
   on long term vent
   - pressors were unable to be weaned, now at 0.15
   - OSH blood cx NGTD, urine cx with ESBL E.coli
   - morphine increased to 2-10mg iv q 2-6h
   This am the patient continues to experience pain, she states mostly in
   her arms.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Celecoxib
   Unknown;
   Singulair (Oral) (Montelukast Sodium)
   Unknown;
   Accolate (Oral) (Zafirlukast)
   Unknown;
   Prilosec (Oral) (Omeprazole)
   Unknown;
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-21**] 08:12 PM
   Meropenem - [**2139-1-22**] 12:04 AM
   Metronidazole - [**2139-1-22**] 12:30 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2139-1-21**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-22**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 78 (66 - 93) bpm
   BP: 86/51(65) {80/46(59) - 109/65(81)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 9 (5 - 13)mmHg
   Total In:
                                                                  2,780 mL
                                                                    515 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,500 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    210 mL
   Urine:
                                                                    760 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
   Balance:
                                                                  1,900 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94% on RA
   ABG: ////
   Physical Examination
   General Appearance: Elderly female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic, OP clear
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: CTAB
   Abdominal: + BS, soft, ND, tender to palpation throughout. Small
   draining tract with a bag in place in her LUQ
   Extremities: 2+ edema in her arms b/l and legs.  Right: 2+, Left: 2+
   DP,
   Skin:  Warm
   Neurologic: Alert and oriented x 3.
   Labs / Radiology
   104 K/uL
   8.5 g/dL
   113 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   136 mEq/L
   26.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2139-1-21**]  01:06 AM
                             [**2139-1-21**]  03:10 AM
                             [**2139-1-21**]  06:05 AM
   WBC
   5.8
   7.1
   Hct
   24.1
   26.0
   Plt
   82
   104
   Cr
   0.5
   0.5
   TCO2
   15
   Glucose
   97
   113
   Other labs: PT / PTT / INR:16.8/31.3/1.5, ALT / AST:22/40, Alk Phos / T
   Bili:176/3.2, Differential-Neuts:82.9 %, Lymph:11.7 %, Mono:4.5 %,
   Eos:0.5 %, Lactic Acid:0.3 mmol/L, Albumin:1.9 g/dL, LDH:161 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   [1][**2139-1-21**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2139-1-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2139-1-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2139-1-21**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   Assessment and Plan
   61F s/p gastric bypass and more recently, lap CCY, with
   choledocholithiasis, ESBL E coli UTI, and also ? pna, transferred from
   OSH for ERCP s/p stone removal complicated by sepsis.
   # Hypotension: The patient
s MAPs have been maintained in the 60
s with
   levophed, however she was unable to be weaned.  Her hypotension is
   likely due to sepsis secondary to bacteremia after instrumentation
   during ERCP.  Lactate yesterday am was 0.3.  CVP has ranged recently 8
 14.
   - Continue broad spectrum antibiotics with meropenem, flagyl, and
   vancomycin as below
   - F/u BCx, Ucx here and at the OSH.
   - Continue to monitor her BPs via her A-line and continue levophed
   titrating to MAP > 60 as she is asymptomatic with SBPs in the 80s.
   Attempt to wean levophed as tolerated.  Follow mentation at lower MAPs
   as well as UOP with a goal of > 30 cc/hr.
   - Follow her CVP and given IV boluses to maintain it at 8-12.
   # choledocholithiasis/cholangitis: pt's elevated Tbili, slightly
   elevated alk phos, and vague abd complaints at OSH c/w
   choledocholithiasis, for which pt underwent ERCP [**1-20**].
   - Manage hypotension as above
   - meropenem, given known UTI with ESBL E coli, flagyl for GI anaerobes,
   and vanc for gram positive coverage
   # Hypoxia: The patient has beeen weaned to RA.
   # ESBL E coli UTI: second possible source of infection, although time
   course more consistent with her recent ERCP, above, as source of
   sepsis. repeat UA showed on 1 WBC, neg leuk, neg nitrite
   - F/u  UCx
   - Continue meropenem as above.
   # Chronic pain: pt on numerous pain meds at home--fentanyl transdermal,
   oxycodone, ultram, as well as lidoderm and methocarbamol.
   - Will continue fentanyl and lidocaine patches and add back the rest of
   her po home regimen as above
   # pancytopenia: based on records from [**Location (un) 1242**], this has been long
   standing, with WBC [**2-5**], Hct high 20s, and plts ~100, unresponsive to
   IVIG in the past, and has also received B12 supplementation as she is
   s/p gastric bypass, without apparent effect. Hct stable this am at
   24.3, WBC at 5.5.
   - follow counts; continue folate
   # hypothyroidism: continue levothyroxine 200mcg daily
   # FEN: advance diet as tolerated to regular, replete lytes prn
   # Access: 22 PIV in L arm, Aline, and left subclavian central line
   # PPx: pneumoboots--no heparin [**2-2**] low plts at OSH; home ppi; bowel
   regimen prn
   # Code: DNR/DNI; discussed with daugther on [**1-21**] who states that her
   mother could be intubated for procedures or if a situation was very
   likely to be reversible, but otherwise DNR/DNI
   # Dispo: ICU
   # Comm: with daughter and proxy, [**Name (NI) **] [**Name (NI) 3531**] [**Telephone/Fax (1) 3532**] (h) or
   [**Telephone/Fax (1) 3533**] (c)
   ICU Care
   Nutrition: Clears
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-1-20**] 11:30 PM
   Arterial Line - [**2139-1-21**] 01:00 AM
   Multi Lumen - [**2139-1-21**] 01:30 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2139-01-22 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pressor weaned yest. Continues to c/o UE pain
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Celecoxib
   Unknown;
   Singulair (Oral) (Montelukast Sodium)
   Unknown;
   Accolate (Oral) (Zafirlukast)
   Unknown;
   Prilosec (Oral) (Omeprazole)
   Unknown;
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2139-1-22**] 06:34 AM
   Vancomycin - [**2139-1-22**] 08:00 AM
   Metronidazole - [**2139-1-22**] 09:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-1-22**] 08:32 AM
   Other medications:
   lidocaine patch, folate, Synthroid, Protonix, Seroquel, fentanyl patch,
   norepinephrine 0.12 mcg/kg/min, Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-22**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 95 (72 - 98) bpm
   BP: 95/55(70) {80/46(59) - 109/65(81)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 11 (8 - 13)mmHg
   Total In:
                                                                  2,780 mL
                                                                  1,135 mL
   PO:
                                                                    280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,500 mL
                                                                  1,015 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    815 mL
   Urine:
                                                                    760 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                    300 mL
   Balance:
                                                                  1,900 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely, mild, serous
   fluid leaking from drain site RUQ site
   Extremities: Right: 2+, Left: 2+, anasarcic
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   89 K/uL
   115 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   8 mg/dL
   105 mEq/L
   137 mEq/L
   24.3 %
   5.5 K/uL
        [image002.jpg]
                             [**2139-1-21**]  01:06 AM
                             [**2139-1-21**]  03:10 AM
                             [**2139-1-21**]  06:05 AM
                             [**2139-1-22**]  05:40 AM
   WBC
   5.8
   7.1
   5.5
   Hct
   24.1
   26.0
   24.3
   Plt
   82
   104
   89
   Cr
   0.5
   0.5
   0.4
   TCO2
   15
   Glucose
   97
   113
   115
   Other labs: PT / PTT / INR:16.8/31.3/1.5, ALT / AST:22/40, Alk Phos / T
   Bili:176/3.2, Differential-Neuts:82.9 %, Lymph:11.7 %, Mono:4.5 %,
   Eos:0.5 %, Lactic Acid:0.3 mmol/L, Albumin:1.9 g/dL, LDH:161 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Microbiology: Blood, Urine cx -pending
   Assessment and Plan
   SEPTIC SHOCK- BPs low chronically most likey, wean off Levophed and
   tolerate MAP goal 60, assess mental status
   -likely source GU but given post-ERCP development covering GI pathogens
   as well
   -cont broad ABX for now
   CHOLELITHIASIS- s/p ERCP decompression of CBD
   -GI following
   -ADAT if ok w/ GI
   CHRONIC PAIN- BP making standard pain med regimen difficult - on prn
   morphine at present
   -resume home po regimen today
   IMPAIRED SKIN INTEGRITY- related to hypoalbuminemia
   -resuming po diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2139-1-21**] 01:00 AM
   Multi Lumen - [**2139-1-21**] 01:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-23 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - weaned off pressors, on review of transfer records pt's baseline BP
   has ranged from mid 70s to low 90s.
   - pt indicated she would like to go back to [**Hospital3 **]
   This am the patient states she continues to have [**7-10**] pain all over and
   feels that it is not under control.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Celecoxib
   Unknown;
   Singulair (Oral) (Montelukast Sodium)
   Unknown;
   Accolate (Oral) (Zafirlukast)
   Unknown;
   Prilosec (Oral) (Omeprazole)
   Unknown;
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-22**] 07:50 PM
   Meropenem - [**2139-1-22**] 11:41 PM
   Metronidazole - [**2139-1-23**] 12:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-1-22**] 11:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-23**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 90 (80 - 115) bpm
   BP: 90/44(55) {90/44(55) - 100/52(73)} mmHg
   RR: 11 (7 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 10 (9 - 12)mmHg
   Total In:
                                                                  2,248 mL
                                                                    158 mL
   PO:
                                                                    420 mL
   TF:
   IVF:
                                                                  1,828 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    325 mL
   Urine:
                                                                    885 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
                                                                    675 mL
                                                                    150 mL
   Balance:
                                                                    688 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92% on RA
   ABG: ///27/
   Physical Examination
   General Appearance: Elderly female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic, OP clear
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: Coarse breath sounds anteriorly
   Abdominal: + BS, soft, ND, tender to palpation in the RUQ. Small
   draining tract with a bag in place in her LUQ
   Extremities: 2+ edema in her arms b/l and legs.  Right: 2+, Left: 2+
   DP,
   Skin:  Warm
   Neurologic: Alert and oriented x 3.
   Labs / Radiology
   62 K/uL
   7.0 g/dL
   87 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   8 mg/dL
   105 mEq/L
   135 mEq/L
   21.0 %
   3.7 K/uL
        [image002.jpg]
                             [**2139-1-21**]  01:06 AM
                             [**2139-1-21**]  03:10 AM
                             [**2139-1-21**]  06:05 AM
                             [**2139-1-22**]  05:40 AM
                             [**2139-1-23**]  04:33 AM
   WBC
   5.8
   7.1
   5.5
   3.7
   Hct
   24.1
   26.0
   24.3
   21.0
   Plt
   82
   104
   89
   62
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   15
   Glucose
   97
   113
   115
   87
   Other labs: PT / PTT / INR:17.1/30.3/1.5, ALT / AST:15/23, Alk Phos / T
   Bili:127/1.5, Differential-Neuts:82.9 %, Lymph:11.7 %, Mono:4.5 %,
   Eos:0.5 %, Lactic Acid:0.3 mmol/L, Albumin:1.6 g/dL, LDH:125 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.6 mg/dL
   [1][**2139-1-21**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2139-1-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2139-1-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2139-1-21**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   Assessment and Plan
   61F s/p gastric bypass and more recently, lap CCY, with
   choledocholithiasis, ESBL E coli UTI, and also ? pna, transferred from
   OSH for ERCP s/p stone removal complicated by sepsis.
   # Hypotension: The patient was able to be weaned off levophed
   yesterday.  Her hypotension is likely due to sepsis secondary to
   bacteremia after instrumentation during ERCP.  CVP has ranged recently
   [**8-12**].
   - Continue broad spectrum antibiotics with meropenem, flagyl, and
   vancomycin as below
   - F/u BCx, Ucx here and at the OSH.
   - Continue to monitor her BPs via her A-line and continue levophed
   titrating to MAP > 60 as she is asymptomatic with SBPs in the 80s.
   Follow mentation at lower MAPs as well as UOP with a goal of > 30
   cc/hr.
   - Follow her CVP and given IV boluses to maintain it at 8-12.
   # choledocholithiasis/cholangitis: pt's elevated Tbili, slightly
   elevated alk phos, and vague abd complaints at OSH c/w
   choledocholithiasis, for which pt underwent ERCP [**1-20**].
   - Manage hypotension as above
   - meropenem, given known UTI with ESBL E coli, flagyl for GI anaerobes,
   and vanc for gram positive coverage
   # ESBL E coli UTI: second possible source of infection, although time
   course more consistent with her recent ERCP, above, as source of
   sepsis. repeat UA showed on 1 WBC, neg leuk, neg nitrite.  Ucx from the
   OSH showed the E.coli was sensitive to imipenems and zosyn.
   - F/u  UCx
   - Continue meropenem as above.
   # Chronic pain: pt on numerous pain meds at home--fentanyl transdermal,
   oxycodone, ultram, as well as lidoderm and methocarbamol.
   - Will continue fentanyl and lidocaine patches and add back the rest of
   her po home regimen as above
   # pancytopenia: based on records from [**Location (un) 1242**], this has been long
   standing, with WBC [**2-5**], Hct high 20s, and plts ~100, unresponsive to
   IVIG in the past, and has also received B12 supplementation as she is
   s/p gastric bypass, without apparent effect. Hct stable this am at
   24.3, WBC at 5.5.
   - follow counts; continue folate
   # hypothyroidism: continue levothyroxine 200mcg daily
   # FEN: advance diet as tolerated to regular, replete lytes prn
   # Access: 22 PIV in L arm, Aline, and left subclavian central line
   # PPx: pneumoboots--no heparin [**2-2**] low plts at OSH; home ppi; bowel
   regimen prn
   # Code: DNR/DNI; discussed with daugther on [**1-21**] who states that her
   mother could be intubated for procedures or if a situation was very
   likely to be reversible, but otherwise DNR/DNI
   # Dispo: ICU
   # Comm: with daughter and proxy, [**Name (NI) **] [**Name (NI) 3531**] [**Telephone/Fax (1) 3532**] (h) or
   [**Telephone/Fax (1) 3533**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2139-1-21**] 01:00 AM
   Multi Lumen - [**2139-1-21**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2139-01-23 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   weaned off pressors yest pm, when it was noted that pt's sbp runs 7-90s
   normally. still c/o pain, 7/10 intensity
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Celecoxib
   Unknown;
   Singulair (Oral) (Montelukast Sodium)
   Unknown;
   Accolate (Oral) (Zafirlukast)
   Unknown;
   Prilosec (Oral) (Omeprazole)
   Unknown;
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2139-1-22**] 11:41 PM
   Metronidazole - [**2139-1-23**] 08:01 AM
   Vancomycin - [**2139-1-23**] 08:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-1-22**] 11:20 AM
   Pantoprazole (Protonix) - [**2139-1-23**] 08:09 AM
   Other medications:
   Lidocaine patch, folate, Synthroid, Protonix, Seroquel, fentanyl patch,
   Colace, Atrovent,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-23**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 86 (80 - 115) bpm
   BP: 71/38(49) {66/38(49) - 111/64(81)} mmHg
   RR: 11 (7 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 10 (9 - 12)mmHg
   Total In:
                                                                  2,249 mL
                                                                    498 mL
   PO:
                                                                    420 mL
   TF:
   IVF:
                                                                  1,829 mL
                                                                    498 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    385 mL
   Urine:
                                                                    885 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
                                                                    675 mL
                                                                    150 mL
   Balance:
                                                                    689 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   65 K/uL
   84 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   21.6 %
   3.8 K/uL
        [image002.jpg]
                             [**2139-1-21**]  01:06 AM
                             [**2139-1-21**]  03:10 AM
                             [**2139-1-21**]  06:05 AM
                             [**2139-1-22**]  05:40 AM
                             [**2139-1-23**]  04:33 AM
                             [**2139-1-23**]  06:43 AM
   WBC
   5.8
   7.1
   5.5
   3.7
   3.8
   Hct
   24.1
   26.0
   24.3
   21.0
   21.6
   Plt
   82
   104
   89
   62
   65
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   TCO2
   15
   Glucose
   97
   113
   115
   87
   84
   Other labs: PT / PTT / INR:16.9/31.5/1.5, ALT / AST:15/23, Alk Phos / T
   Bili:127/1.5, Differential-Neuts:82.9 %, Lymph:11.7 %, Mono:4.5 %,
   Eos:0.5 %, Lactic Acid:0.3 mmol/L, Albumin:1.6 g/dL, LDH:125 IU/L,
   Ca++:6.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Microbiology: Urine- ESBL E.coli
   Blood- neg to date
   Assessment and Plan
   SEPTIC SHOCK- resolved, off pressors since yesterday, likely due to
   E.coli GU source
   -narrow abx to just meropenem, total 14d
   CHOLELITHIASIS- s/p ERCP decompression of CBD
   -GI following
   -ADAT if ok w/ GI
   CHRONIC PAIN- BP making standard pain med regimen difficult - on prn
   morphine at present
   -resume home po regimen today
   IMPAIRED SKIN INTEGRITY- related to hypoalbuminemia
   -resuming po diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2139-1-21**] 01:00 AM
   Multi Lumen - [**2139-1-21**] 01:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 30 minutes